US06022884
2-(N-(2,4-dimethylphenyl)-N-methylamino)-5-amino-pyridine was prepared from 1-amino-2,4-dimethylbenzene and 2-chloro-5-nitropyridine in the same manner as 2-(N-Cyclohexyl-N-methylamino)-5-amino-pyridine was prepared.

reactant | 1-amino-2,4-dimethylbenzene | NC1=C(C=C(C=C1)C)C | C8H11N
reactant | 2-chloro-5-nitropyridine | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | 2-(N-Cyclohexyl-N-methylamino)-5-amino-pyridine | C1(CCCCC1)N(C)C1=NC=C(C=C1)N | C12H19N3
product | 2-(N-(2,4-dimethylphenyl)-N-methylamino)-5-amino-pyridine | CC1=C(C=CC(=C1)C)N(C)C1=NC=C(C=C1)N | C14H17N3
